US09056874B2
(±)-2-(2,2,2-Trifluoro-1-hydroxy-1-(5-(hydroxymethyl)-7-methyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile
To a solution of (±)-2-(5-methyl-3-oxo-1-(trifluoromethyl)-3,6-dihydro-1H-furo[3,4-e]indol-1-yl)-1H-benzo[d]imidazole-5-carbonitrile (47 mg, 0.119 mmol) in THF (0.5 mL) at 0° C., LiBH4 (2N in THF, 1.19 mL, 2.38 mmol) was added, followed by H2O (43 μL, 2.38 mmol). The reaction was stirred at 50° C. for 16 hours and then cooled to 0° C. A NH4Cl aqueous solution was added and the layers were separated. The aqueous layer was extracted with ethyl acetate. The combined organic layers were dried over Na2SO4. After concentration under reduced pressure, the residue was separated via silica gel flash column chromatography (CH2Cl2/EtOAc=0 to 100%) to give the title compound. 1H NMR (400 MHz, ACETONITRILE-d3 with about 3% METHANOL-d4) δ ppm 8.05 (s, 1H), 7.54-7.70 (m, 2H), 7.13 (s, 1H), 6.97 (d, J=3.2 Hz, 1H), 5.54 (br. s., 1H), 5.20 (d, J=12.8 Hz, 1H), 4.68 (d, J=12.0 Hz, 1H), 2.48 (s, 3H). HRMS calcd. for C20H16F3N4O2 (M+H)+ 401.122. found 401.1214.

reactant | (±)-2-(5-methyl-3-oxo-1-(trifluoromethyl)-3,6-dihydro-1H-furo[3,4-e]indol-1-yl)-1H-benzo[d]imidazole-5-carbonitrile | 0.119 mmol, 47 mg | CC=1C=C2C(=C3C=CNC13)C(OC2=O)(C(F)(F)F)C2=NC1=C(N2)C=CC(=C1)C#N | C20H11F3N4O2
reactant | LiBH4 | 2.38 mmol, 2N, 1.19 mL | [Li+].[BH4-]
reactant | H2O | 2.38 mmol, 43 μL | O | H2O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | (±)-2-(2,2,2-Trifluoro-1-hydroxy-1-(5-(hydroxymethyl)-7-methyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | FC(C(C1=C2C=CNC2=C(C=C1CO)C)(O)C1=NC2=C(N1)C=CC(=C2)C#N)(F)F | C20H15F3N4O2
